US06337351B1
(4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-fluorophenyl)-4-penten-2-amine
A 180 mL thick-walled glass pressure tube was charged with 3-bromofluorobenzene (0.95 g, 5.41 mmol), N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine (1.08 g, 5.41 mmol), prepared as previously described, palladium(II) acetate (12.2 mg, 0.05 mmol), tri-o-tolylphosphine (65.92 mg, 0.22 mmol), triethylamine (3 mL, 21.52 mmol) and anhydrous acetonitrile (6 mL). The tube was flushed with nitrogen, sealed and the mixture was stirred and heated at 112° C. (oil bath temperature) for 66 h. The resulting mixture containing oily, brown solids, was cooled to ambient temperature and concentrated on a rotary evaporator. The resulting orange-yellow solids were diluted with water (20 mL) and extracted with CH2Cl2 (4×20 mL). The combined CH2Cl2 extracts were washed with saturated NaCl solution (30 mL), dried (Na2SO4), filtered, concentrated by rotary evaporation, and the residue was dried under high vacuum to produce a light-brown oil (1.72 g). The crude product was purified by column chromatography on silica gel (90 g), eluting with ethyl acetate-hexane (15:85, v/v). Selected fractions containing the product (Rf 0.29) were combined, concentrated by rotary evaporation and the residue was vacuum dried to give 1.36 g (85.8%) of a light-yellow oil.

reactant | 3-bromofluorobenzene | 5.41 mmol, 0.95 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | 5.41 mmol, 1.08 g | CN(C(C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
reactant | triethylamine | 21.52 mmol, 3 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.05 mmol, 12.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.22 mmol, 65.92 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-fluorophenyl)-4-penten-2-amine | 1.72 g | CN(C(C)C\C=C\C1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C17H24FNO2
